* c:\users\kesav\esim-workspace\dff\dff.cir

* u3  net-_u12-pad2_ net-_u10-pad2_ net-_u10-pad4_ net-_u10-pad3_ net-_u3-pad5_ ? d_dff
* u8  net-_u3-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad1_ ? d_dff
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ ? d_dff
* u6  net-_u1-pad2_ net-_u6-pad2_ net-_u3-pad5_ ? net-_u6-pad5_ ? d_dff
* u9  net-_u1-pad2_ net-_u11-pad5_ net-_u10-pad1_ net-_u11-pad4_ net-_u6-pad2_ ? d_dff
* u11  net-_u1-pad2_ net-_u11-pad2_ net-_u10-pad5_ net-_u11-pad4_ net-_u11-pad5_ ? d_dff
v1  clk gnd pulse(0 5 0 0.00001 0.00009 0.005 0.01)
* u7  net-_u6-pad2_ net-_u6-pad5_ d8 d9 dac_bridge_2
* u2  clk plot_v1
* u4  d8 plot_v1
* u12  gndd net-_u12-pad2_ adc_bridge_1
* u16  gnd net-_u16-pad2_ adc_bridge_1
r1  d9 gnd 1k
r2  d8 gnd 1k
* u13  clk net-_u10-pad2_ adc_bridge_1
* u1  comp net-_u1-pad2_ adc_bridge_1
* u17  rst plot_v1
v2  comp gnd pulse(0 5 0 0.00001 0.00009 0.05 0.1)
v3  rst gnd pulse(0 5 0 0.00001 0.00009 0.01 1)
* u15  comp plot_v1
* u18  d9 plot_v1
* u14  rst net-_u10-pad4_ adc_bridge_1
* u27  net-_u10-pad5_ net-_u10-pad2_ net-_u10-pad3_ ? net-_u27-pad5_ ? d_dff
* u29  net-_u27-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u29-pad5_ ? d_dff
* u31  net-_u29-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u31-pad5_ ? d_dff
* u33  net-_u31-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u33-pad5_ ? d_dff
* u35  net-_u33-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u35-pad5_ ? d_dff
* u37  net-_u35-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u37-pad5_ ? d_dff
* u39  net-_u37-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u39-pad5_ ? d_dff
* u28  net-_u1-pad2_ net-_u26-pad6_ net-_u27-pad5_ net-_u11-pad4_ net-_u11-pad2_ ? d_dff
* u30  net-_u1-pad2_ net-_u26-pad5_ net-_u29-pad5_ net-_u11-pad4_ net-_u26-pad6_ ? d_dff
* u32  net-_u1-pad2_ net-_u26-pad4_ net-_u31-pad5_ net-_u11-pad4_ net-_u26-pad5_ ? d_dff
* u34  net-_u1-pad2_ net-_u26-pad3_ net-_u33-pad5_ net-_u11-pad4_ net-_u26-pad4_ ? d_dff
* u36  net-_u1-pad2_ net-_u26-pad2_ net-_u35-pad5_ net-_u11-pad4_ net-_u26-pad3_ ? d_dff
* u38  net-_u1-pad2_ net-_u26-pad1_ net-_u37-pad5_ net-_u11-pad4_ net-_u26-pad2_ ? d_dff
* u40  net-_u1-pad2_ net-_u40-pad2_ net-_u39-pad5_ net-_u11-pad4_ net-_u26-pad1_ ? d_dff
* u26  net-_u26-pad1_ net-_u26-pad2_ net-_u26-pad3_ net-_u26-pad4_ net-_u26-pad5_ net-_u26-pad6_ net-_u11-pad2_ net-_u11-pad5_ d0 d1 d2 d3 d4 d5 d6 d7 dac_bridge_8
* u25  d0 plot_v1
* u24  d7 plot_v1
* u22  d6 plot_v1
* u20  d5 plot_v1
* u19  d4 plot_v1
* u5  d3 plot_v1
* u21  d2 plot_v1
* u23  d1 plot_v1
* u41  net-_u39-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u41-pad5_ ? d_dff
* u42  net-_u16-pad2_ net-_u16-pad2_ net-_u41-pad5_ net-_u11-pad4_ net-_u40-pad2_ ? d_dff
a1 net-_u12-pad2_ net-_u10-pad2_ net-_u10-pad4_ net-_u10-pad3_ net-_u3-pad5_ ? u3
a2 net-_u3-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad1_ ? u8
a3 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ ? u10
a4 net-_u1-pad2_ net-_u6-pad2_ net-_u3-pad5_ ? net-_u6-pad5_ ? u6
a5 net-_u1-pad2_ net-_u11-pad5_ net-_u10-pad1_ net-_u11-pad4_ net-_u6-pad2_ ? u9
a6 net-_u1-pad2_ net-_u11-pad2_ net-_u10-pad5_ net-_u11-pad4_ net-_u11-pad5_ ? u11
a7 [net-_u6-pad2_ net-_u6-pad5_ ] [d8 d9 ] u7
a8 [gndd ] [net-_u12-pad2_ ] u12
a9 [gnd ] [net-_u16-pad2_ ] u16
a10 [clk ] [net-_u10-pad2_ ] u13
a11 [comp ] [net-_u1-pad2_ ] u1
a12 [rst ] [net-_u10-pad4_ ] u14
a13 net-_u10-pad5_ net-_u10-pad2_ net-_u10-pad3_ ? net-_u27-pad5_ ? u27
a14 net-_u27-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u29-pad5_ ? u29
a15 net-_u29-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u31-pad5_ ? u31
a16 net-_u31-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u33-pad5_ ? u33
a17 net-_u33-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u35-pad5_ ? u35
a18 net-_u35-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u37-pad5_ ? u37
a19 net-_u37-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u39-pad5_ ? u39
a20 net-_u1-pad2_ net-_u26-pad6_ net-_u27-pad5_ net-_u11-pad4_ net-_u11-pad2_ ? u28
a21 net-_u1-pad2_ net-_u26-pad5_ net-_u29-pad5_ net-_u11-pad4_ net-_u26-pad6_ ? u30
a22 net-_u1-pad2_ net-_u26-pad4_ net-_u31-pad5_ net-_u11-pad4_ net-_u26-pad5_ ? u32
a23 net-_u1-pad2_ net-_u26-pad3_ net-_u33-pad5_ net-_u11-pad4_ net-_u26-pad4_ ? u34
a24 net-_u1-pad2_ net-_u26-pad2_ net-_u35-pad5_ net-_u11-pad4_ net-_u26-pad3_ ? u36
a25 net-_u1-pad2_ net-_u26-pad1_ net-_u37-pad5_ net-_u11-pad4_ net-_u26-pad2_ ? u38
a26 net-_u1-pad2_ net-_u40-pad2_ net-_u39-pad5_ net-_u11-pad4_ net-_u26-pad1_ ? u40
a27 [net-_u26-pad1_ net-_u26-pad2_ net-_u26-pad3_ net-_u26-pad4_ net-_u26-pad5_ net-_u26-pad6_ net-_u11-pad2_ net-_u11-pad5_ ] [d0 d1 d2 d3 d4 d5 d6 d7 ] u26
a28 net-_u39-pad5_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u41-pad5_ ? u41
a29 net-_u16-pad2_ net-_u16-pad2_ net-_u41-pad5_ net-_u11-pad4_ net-_u40-pad2_ ? u42
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u3 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u8 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u10 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u9 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u11 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_undef=0.5 out_high=5.0 input_load=1.0e-12 t_fall=1.0e-9 t_rise=1.0e-9 out_low=0.0 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u12 adc_bridge(rise_delay=1.0e-9 in_high=2.0 fall_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u16 adc_bridge(rise_delay=1.0e-9 in_high=2.0 fall_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(rise_delay=1.0e-9 in_high=2.0 fall_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(rise_delay=1.0e-9 in_high=2.0 fall_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u14 adc_bridge(rise_delay=1.0e-9 in_high=2.0 fall_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u27 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u29 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u31 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u33 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u35 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u37 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u39 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u28 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u30 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u32 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u34 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u36 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u38 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u40 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u26 dac_bridge(out_undef=0.5 out_high=5.0 input_load=1.0e-12 t_fall=1.0e-9 t_rise=1.0e-9 out_low=0.0 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u41 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u42 d_dff(clk_delay=1.0e-9 data_load=1.0e-12 ic=0 set_load=1.0e-12 fall_delay=1.0e-9 reset_delay=1.0 set_delay=1.0e-9 reset_load=1.0e-12 clk_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 1e-03 500e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(d8)
plot v(rst)
plot v(comp)
plot v(d9)
plot v(d0)
plot v(d7)
plot v(d6)
plot v(d5)
plot v(d4)
plot v(d3)
plot v(d2)
plot v(d1)
.endc
.end
